US05221671
N-(3-Butynyloxycarbonyl)-4-hydroxypiperidine
10.0 g of 3-butynylphenyl carbonate and 5.8 g of 4-hydroxypiperidine were heated in a solvent-free condition at 100° C. of 30 minutes. After completion of the reaction, silica gel column chromatography (elution solvent: hexane:ethyl acetate=1:1-1:2) was used for purification to obtain 10.6 g of the intended compound.

reactant | 3-butynylphenyl carbonate | 10.0 g | C(OC1=CC(=CC=C1)C#CCC)([O-])=O
reactant | 4-hydroxypiperidine | 5.8 g | OC1CCNCC1 | C5H11NO
reactant | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(3-Butynyloxycarbonyl)-4-hydroxypiperidine | 10.6 g | C(CC#C)OC(=O)N1CCC(CC1)O | C10H15NO3
